US06720324B2
1,2,3,6-TETRAHYDRO-4-(3-NITROPHENYL)PYRIDINE:
Into a stirred solution of 5.00 g (16.0 mmol) of tert-butyl 1,2,3,6-tetrahydro-4-(3-nitrophenyl)pyridine-1-carboxylate in 100 ml of 1,4-dioxane at 0° C. was bubbled HCl gas for 10 minutes. The reaction mixture was allowed to warm to room temperature and the bubbling of the HCl gas was continued for an additional 1 hour. The solvent was removed in vacuo, the residue was dissolved in 50 mL of water and was neutralized by the addition of KOH pellets. The aqueous solution was extracted with 3×80 mL of dichloromethane and the combined organic extracts were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (silica, 9:1, dichloromethane methanol+1% isopropyl amine) to afford 2.85 g (87.5% yield) of the desired product: 1H NMR (400 MHz, CDCl3) δ 8.24 (s, 1H), 8.09 (d, 1H, J=8.4 Hz), 7.71 (d, 1H, J=8.0 Hz), 7.49 (t, 1H, J=8.0 Hz), 6.35-6.25 (m, 1H), 3.58 (apparent q, 2H, J=3.0 Hz), 3.14 (t, 2H, J=5.6 Hz), 2.54-2.46 (m, 2H)

reactant | tert-butyl 1,2,3,6-tetrahydro-4-(3-nitrophenyl)pyridine-1-carboxylate | 16.0 mmol, 5.00 g | [N+](=O)([O-])C=1C=C(C=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C16H20N2O4
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1,2,3,6-TETRAHYDRO-4-(3-NITROPHENYL)PYRIDINE | 2.85 g, 87.5% yield | [N+](=O)([O-])C=1C=C(C=CC1)C=1CCNCC1 | C11H12N2O2
